* Schematics Netlist *



V_V6         $N_0001 0 DC 0V AC 7V 0
R_R1         $N_0001 $N_0002  8  
L_L1         0 $N_0003  0.5  
R_R4         $N_0004 $N_0003  5  
R_R2         0 $N_0005  48  
R_R3         0 $N_0006  24  
C_C1         $N_0002 N1  40m  
C_C2         N1 N2  20m  
           
.PRINT         AC 
+ VM([N1]) 
+ VP([N1])    
V_PRINTI1         N1 $N_0005 0V
          
.PRINT        AC 
+ IM(V_PRINTI1) 
+ IP(V_PRINTI1)    
V_PRINTI2         N2 $N_0006 0V
          
.PRINT        AC 
+ IM(V_PRINTI2) 
+ IP(V_PRINTI2)    
V_PRINTI3         N2 $N_0004 0V
          
.PRINT        AC 
+ IM(V_PRINTI3) 
+ IP(V_PRINTI3)    
           
.PRINT         AC 
+ VM([N2]) 
+ VP([N2])    
