* Schematics Netlist *



R_R1         P1 $N_0001  2  
R_R2         P2 $N_0002  1  
L_L3         $N_0002 P3  1  
L_L2         P2 P3  1  
L_L4         0 $N_0003  2  
C_C1         0 P2  1  
R_R3         $N_0003 P3  1  
L_L1         $N_0001 P2  1  
I_I1         P3 0 DC 0A AC 3A -48
V_V1         P1 0  
+SIN 0 48 0.318 0 0 0
